US07902367B2
Step A1) 1-(Benzyloxycarbonyl)piperidin-3-yl methanol
An aqueous solution (20 mL) of sodium carbonate (6.90 g, 65.1 mmol) was added to 3-piperidinylmethanol (5.00 g, 43.4 mmol) in tetrahydrofuran (20 mL). While the mixture was chilled in an ice bath, benzyloxycarbonyl chloride (9.36 g, 52.1 mmol) was added and the mixture was stirred for 1 hour and subsequently 7 hours at room temperature. The solvent was then evaporated and ethyl acetate was added to the residue. The mixture was then washed sequentially with water, 0.1 mol/L hydrochloric acid and brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the residue by silica gel column chromatography (hexane:ethyl acetate=5:1->1:1) gave 9.15 g (85%) of the desired compound as a colorless powder.

reactant | sodium carbonate | 65.1 mmol, 20 mL, 6.90 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-piperidinylmethanol | 43.4 mmol, 5.00 g | N1CC(CCC1)CO | C6H13NO
reactant | benzyloxycarbonyl chloride | 52.1 mmol, 9.36 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(Benzyloxycarbonyl)piperidin-3-yl methanol | 9.15 g, 85% | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CO | C14H19NO3
